US08877968B2
3.1 g (10 mmol) of (R)-2-tert-butoxycarbonylamino-3-(4-chlorophenyl)propionic acid, 1.9 g (11 mmol) of EDC, 1.5 g (11 mmol) of HOBt and 1.7 mL (20 mmol) of diisopropylethylamine are dissolved in 80 mL of DMF. The mixture is stirred at room temperature for 15 minutes, and 2.6 g (10 mmol) of ethyl piperidine-4-cyclohexyl-4′-carboxylate (cf. preparation 9-2) diluted in 20 mL of DMF are then added. After stirring for 2 hours, a further 1.7 mL (20 mmol) of diisopropylethylamine are added. The reaction is stopped by adding aqueous 5% citric acid solution. The organic products are extracted with ethyl acetate and the organic phase is washed with aqueous 1N NaOH solution. The organic phase is dried and evaporated. 5.2 g of ethyl 1-[(R)-2-tert-butoxycarbonylamino-3-(4-chlorophenyl)propionyl]-4-cyclohexyl-piperidine-4-carboxylate in the form of a colourless oil are obtained in a yield of 75%.

reactant | (R)-2-tert-butoxycarbonylamino-3-(4-chlorophenyl)propionic acid | 10 mmol, 3.1 g | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)CC1=CC=C(C=C1)Cl | C14H18ClNO4
reactant | EDC | 11 mmol, 1.9 g
reactant | HOBt | 11 mmol, 1.5 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | diisopropylethylamine | 20 mmol, 1.7 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | diisopropylethylamine | 20 mmol, 1.7 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | ethyl 1-[(R)-2-tert-butoxycarbonylamino-3-(4-chlorophenyl)propionyl]-4-cyclohexyl-piperidine-4-carboxylate | 5.2 g, yield of 75% | C(C)(C)(C)OC(=O)N[C@@H](C(=O)N1CCC(CC1)(C(=O)OCC)C1CCCCC1)CC1=CC=C(C=C1)Cl | C28H41ClN2O5
